US09227985B2
7-(3,5-Dimethylisoxazol-4-yl)-N-ethyl-9-fluoro-4-pyridin-3-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-amine
Triethylamine (16 μL, 0.12 mmol) and ethylamine (0.2 mL, 3 mmol) were added to 2-chloro-7-(3,5-dimethylisoxazol-4-yl)-9-fluoro-4-pyridin-3-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine (15 mg, 0.040 mmol) in N-methylpyrrolidinone (0.41 mL) and the mixture was heated in a microwave at 150° C. for 20 min. The mixture was diluted with methanol and purified by preparative LCMS using pH 10 buffer to afford the title compound (3.0 mg, 19%). LCMS calc. for C21H21FN5O2 (M+H)+: m/z=394.2. found: 394.1.

reactant | Triethylamine | 0.12 mmol, 16 μL | C(C)N(CC)CC | C6H15N
reactant | ethylamine | 3 mmol, 0.2 mL | C(C)N | C2H7N
reactant | 2-chloro-7-(3,5-dimethylisoxazol-4-yl)-9-fluoro-4-pyridin-3-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine | 0.040 mmol, 15 mg | ClC1=NC2=C(C=C(C3=C2N1C(CO3)C=3C=NC=CC3)C=3C(=NOC3C)C)F | C19H14ClFN4O2
solvent | N-methylpyrrolidinone | 0.41 mL | CN1C(CCC1)=O | C5H9NO
solvent | methanol | CO | CH4O
product | 7-(3,5-Dimethylisoxazol-4-yl)-N-ethyl-9-fluoro-4-pyridin-3-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-amine | 3.0 mg, 19% | CC1=NOC(=C1C1=CC(=C2C=3N(C(COC31)C=3C=NC=CC3)C(=N2)NCC)F)C | C21H20FN5O2
